US06835732B2
4-Fluoro-N-(4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl)-benzamide
Using 4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-ylamine and 4-fluoro-benzoyl chloride in pyridine the title compound was obtained as a yellow solid (44% yield), MS: m/e=402.4 (M+H+).

reactant | 4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)CN2CCOCC2 | C13H17N3O2S
reactant | 4-fluoro-benzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Fluoro-N-(4-methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl)-benzamide | FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3CN3CCOCC3)OC)C=C1 | C20H20FN3O3S
